US05331006
Preparation of α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-1-yloxy)carbonyl]-DL-tyrosine
The title compound was prepared from methyl α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-1-yloxy)carbonyl]-DL-tyrosine (200 mg, 0.418 mmol) and lithium hydroxide monohydrate (26.3 mg, 0.628 mmol, 1.5 eq) using the procedure described in Example 47, Step C.

reactant | methyl α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-1-yloxy)carbonyl]-DL-tyrosine | 0.418 mmol, 200 mg | CN(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C(=O)O)C)C(=O)OC12CC3CC(CC(C1)C3)C2 | C29H35NO5
reactant | lithium hydroxide monohydrate | 0.628 mmol, 26.3 mg, 1.5 eq | O.[OH-].[Li+]
product | α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-1-yloxy)carbonyl]-DL-tyrosine | CC(NC(=O)OC12CC3CC(CC(C1)C3)C2)(CC2=CC=C(C=C2)OCC2=CC=CC=C2)C(=O)O | C28H33NO5
